US04082847
To 56.6 ml (1.50 mol) of HCOOH was added 24.9 g (150 mmol) of 3-nitro-4-aminobenzaldehyde. The solution was heated to reflux, 28.4 ml (300 mmol) of acetic anhydride was added dropwise and the solution was refluxed for 30 minutes. The resulting suspension was cooled and poured into 400 ml of cold H2O with rapid stirring. The product was filtered, air dried, and recrystallized from isopropanol to yield 23.2 g (80%) of 3-nitro-4-formamidobenzaldehyde as a bright yellow powder: melting point = 183°-191°.

reactant | HCOOH | 1.50 mol, 56.6 ml | C(=O)O | CH2O2
reactant | 3-nitro-4-aminobenzaldehyde | 150 mmol, 24.9 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1N | C7H6N2O3
reactant | acetic anhydride | 300 mmol, 28.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | H2O | 400 ml | O | H2O
product | 3-nitro-4-formamidobenzaldehyde | 23.2 g, 80% | [N+](=O)([O-])C=1C=C(C=O)C=CC1NC=O | C8H6N2O4
